US05145869
A mixture of 3,4-dimethylbenzenethiol (0.59 ml), 2-methyleneglutaronitrile (0.48 ml), ethanol (10 ml), and triton B (40% ethanol solution, 5 drops) was refluxed for 5 hours. After the reaction mixture was concentrated in vacuo, the resulting residue was dissolved in chloroform, washed with water, and dried over MgSO4. The solvent was evaporated at reduced pressure, and the residue was purified by flash column chromatography on silica by eluting with benzene/ethyl acetate (7:1) to give 1.18 g of 2-(3,4-dimethylphenylthiomethyl)glutaronitrile as an oil.

reactant | 3,4-dimethylbenzenethiol | 0.59 ml | CC=1C=C(C=CC1C)S | C8H10S
reactant | 2-methyleneglutaronitrile | 0.48 ml | C=C(C#N)CCC#N | C6H6N2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(3,4-dimethylphenylthiomethyl)glutaronitrile | 1.18 g | CC=1C=C(C=CC1C)SCC(C#N)CCC#N | C14H16N2S
